US05616793
In another step of the method, 3-isobutylglutaric acid anhydride is reacted with ammonia to form (±)-3-(carbamoylmethyl)-5-methylhexanoic acid. In this step, the cyclic anhydride is opened and one of the carbonyl groups is converted to an amide. (±)-3-(carbamoyl methyl)-5-methylhexanoic acid can be recrystallized from a number of solvents including ethyl acetate, water, chloroform and 2-butanone.

reactant | 3-isobutylglutaric acid anhydride | C(C(C)C)C1CC(=O)OC(C1)=O | C9H14O3
reactant | ammonia | N | H3N
product | (±)-3-(carbamoylmethyl)-5-methylhexanoic acid | C(N)(=O)CC(CC(=O)O)CC(C)C | C9H17NO3
